US09023847B2
41. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(pyridin-2-ylmethyl)-amino]-ethyl}-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide using 2-pyridinecarboxaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 393 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.51 (1H, br. s.) 10.27 (1H, s) 8.46 (1H, ddd, J=4.81, 1.66, 0.76 Hz) 8.07 (1H, t, J=5.61 Hz) 8.01 (1H, d, J=5.37 Hz) 7.77 (1H, d, J=5.47 Hz) 7.68 (1H, td, J=7.68, 1.73 Hz) 7.47 (1H, d, J=5.42 Hz) 7.39 (1H, d, J=7.71 Hz) 7.29 (1H, d, J=2.64 Hz) 7.20 (1H, ddd, J=7.47, 4.91, 0.90 Hz) 6.80 (1H, d, J=5.47 Hz) 6.42 (1H, dd, J=3.49, 1.98 Hz) 3.78 (2H, s) 3.36 (2H, q, J=6.12 Hz) 2.68 (2H, t, J=6.83 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 2-pyridinecarboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(pyridin-2-ylmethyl)-amino]-ethyl}-amide | N1=C(C=CC=C1)CNCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H20N6OS
